US08314091B2
C: N-(1-Cyano-1-cyclopropylethyl)-3-((4-(4-(3-(cyclopropylmethyl)ureido)-3-fluorobenzoyl)-piperazin-1-yl)methyl)benzamide
3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)—N-(1-cyano-1-cyclopropyl-ethyl)benzamide (49 mg, 0.109 mmol) was stirred In dichloromethane at room temperature. 4-Nitrophenylchloroformate (22 mg, 0.109 mmol) was added and the reaction mixture stirred for 30 minutes. Cyclopropylmethylamine (23 mg, 0.327 mmol) was added and the reaction allowed to stir for 30 minutes at room temperature. The reaction was concentrated under reduced pressure and the resulting residue purified by silica column chromatography to afford the title compound (25 mg). MS (ESI) m/z 547.5 [M+H]+

reactant | 3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)—N-(1-cyano-1-cyclopropyl-ethyl)benzamide | 0.109 mmol, 49 mg | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C3CC3)C#N)C=CC2)C=C1)F | C25H28FN5O2
reactant | 4-Nitrophenylchloroformate | 0.109 mmol, 22 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | Cyclopropylmethylamine | 0.327 mmol, 23 mg | C1(CC1)CN | C4H9N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(1-Cyano-1-cyclopropylethyl)-3-((4-(4-(3-(cyclopropylmethyl)ureido)-3-fluorobenzoyl)-piperazin-1-yl)methyl)benzamide | 25 mg | C(#N)C(C)(C1CC1)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=CC(=C(C=C1)NC(=O)NCC1CC1)F)=O)=O | C30H35FN6O3
